US03987009
4-(Triethoxysilyl)phenyl Diphenylphosphine
To a Grignard reagent solution prepared from 4-bromophenyl diphenylphosphine (36 g, 0.1 mol) and magnesium (2.43 g, 0.10 g atom) in 130 ml of dry tetrahydrofuran, tetraethyl orthosilicate (54 g, 0.21 mol) is added and the solution heated at 55° C for 4 hours. The solvent is removed in vacuum leaving 27 grams of clear liquid, analyzing 50 percent product by gas-liquid chromatography. A sample separated by this means gave a H'NMR, delta (C6D6): 8.84 (t, 9H); 3.74 (q, 6H); 6.90-7.90 (m, 14H), consistent with the structure expected. The yield is 32 percent.

reactant | 4-bromophenyl diphenylphosphine | 0.1 mol, 36 g | BrC1=CC=C(C=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H14BrP
reactant | magnesium | 2.43 g | [Mg] | Mg
reactant | tetraethyl orthosilicate | 0.21 mol, 54 g | [Si](OCC)(OCC)(OCC)OCC | C8H20O4Si
solvent | tetrahydrofuran | 130 ml | O1CCCC1 | C4H8O
product | 4-(Triethoxysilyl)phenyl Diphenylphosphine | 27 grams, yield is 32 percent | C(C)O[Si](C1=CC=C(C=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)(OCC)OCC | C24H29O3PSi
